datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([S:13][H:19])[C:14](=[S:15])[H:20])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:16])([H:17])[H:18])([S:13][H:19])[C:14](=[S:15])[H:20],67.8226
[C:0](#[C:1][C:2]([C:3](=[O:4])[H:8])([H:6])[H:7])[H:5]>>[C-:3]#[O+:4].[C:0](#[C:1][C:2]([H:6])([H:7])[H:8])[H:5],324.26
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8](=[C:9]([H:11])[H:12])[H:10],-9.6232
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])[H:5].[H:4][O:12],37.4848744
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12](=[S:13])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:14])[H:6].[C:11]([C:12](=[S:13])[H:17])([H:15])[H:16],88.7008
[C:0]([H:1])([H:2])[H:3].[C:4](=[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0]([H:1])([H:2])([H:3])[C:4](=[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])[H:9])[H:8],0.0
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])([H:30])([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])[H:11],38.8694
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[H:10])([H:12])[H:13])[H:11])[H:9])([H:7])[H:8],126.775
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:8]([H:9])([H:10])[H:11])[H:4],27.1542
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:19])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])([H:16])([H:17])[H:18],69.7891
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],163.092
[C:19]([H:20])([H:21])[H:22].[O:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]12)[H:11]>>[H:11][C:19]([H:20])([H:21])[H:22].[O:0][c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]12,20.200352
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]#[C:12][C:13](=[C:14]([H:19])[H:20])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])=[C:12][C:13](=[C:14]([H:19])[H:20])[H:18])[H:4],37.9489
[O:0][C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)([H:12])[H:13]>>[O:0]=[C:1]([H:12])[H:13].[c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12,154.1804
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:13])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:13])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],39.342152
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([C:12]([O:13][O:14])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:14][O:13][C:12]([C:11]([C:10]([C:9]([H:15])([H:16])[H:17])([H:18])[H:19])([H:20])[H:21])([H:22])[H:23],55.5974104
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:8],65.3122
